US04801705
[2,3-bis(Acetyloxy)benzoyl]hydrazinecarboxylic acid, t-butyl ester (25 g) was dissolved in 100 ml of methanol containing 6 g of ammonia. After standing over 24 hours at 0° C., the solvent was removed in vacuo and the residue stirred with 100 ml of ice water yielding (2,3-dihydroxybenzoyl)hydrazinecarboxylic acid, t-butyl ester as beige crystals, 17.8 g; melting point 158°-160° C.

reactant | [2,3-bis(Acetyloxy)benzoyl]hydrazinecarboxylic acid, t-butyl ester | 25 g | C(C)(=O)OC1=C(C(=O)N(N)C(=O)OC(C)(C)C)C=CC=C1OC(C)=O | C16H20N2O7
solvent | methanol | 100 ml, 6 g | CO | CH4O
solvent | ammonia | N | H3N
product | (2,3-dihydroxybenzoyl)hydrazinecarboxylic acid, t-butyl ester | OC1=C(C(=O)N(N)C(=O)OC(C)(C)C)C=CC=C1O | C12H16N2O5
